* Minimum Inverter
**Subcircuit
.subckt inv supply Inp Output

MP1 Output Inp Supply Supply cmosp
+ L=0.4U W=3.15U AD = 2.52P AS = 2.52P PD = 7.9U PS = 7.9U
MN1 Output Inp 0 0 cmosn
+ L=0.4U W=1.32U AD = 1.056P AS = 1.056P PD = 4.24U PS = 4.24U
.ends
